US07902252B2
2.100. Synthesis of 4-((4′-hydroxybiphenyl-3-yl)methyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (85)
The title compound was synthesized from methyl 4-((4′-hydroxybiphenyl-3-yl)methyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.044 g, 0.13 mmol) and lithium hydroxide (0.055 g, 1.31 mmol in 1 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (2 mL) was used. The resulting product was purified by reverse phase HPLC, eluting with a gradient of 40-100% MeOH: water (with 0.1% formic acid) to afford a light pink solid: 21.7 mg, 51% yield. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.13 (s, 1H), 2.48-2.62 (m, 3H), 2.80 (dd, J=7.05, 3.78 Hz, 2H), 3.25-3.29 (m, 1H), 6.39 (s, 1H), 6.81-6.86 (m, 2H), 7.09 (d, J=7.52 Hz, 1H), 7.25-7.30 (m, 2H), 7.33-7.37 (m, 1H), 7.38-7.42 (m, 2H); LCMS ESI− 332.2 (M−H); HPLC (UV=98.1%), (ELSD=100%).

reactant | methyl 4-((4′-hydroxybiphenyl-3-yl)methyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.13 mmol, 0.044 g | OC1=CC=C(C=C1)C1=CC(=CC=C1)CC1CCC=2NC(=CC21)C(=O)OC | C22H21NO3
reactant | lithium hydroxide | 1.31 mmol, 1 mL, 0.055 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-((4′-hydroxybiphenyl-3-yl)methyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 51% yield | OC1=CC=C(C=C1)C1=CC(=CC=C1)CC1CCC=2NC(=CC21)C(=O)O | C21H19NO3
